US06992087B2
To a solution of N-[(1R,2R)-2-azido-2,3-dihydro-1H-inden-1-yl]-3,6-dicyclopropyl-5-(2,4-dichlorophenyl)pyrazin-2-amine (0.55 g, 1.15 mmol) in anhydrous THF (30 mL) was added PPh3 (0.396 g, 1.51 mmol). The resulting mixture was stirred at rt for 3 hr. To the solution was added water (0.25 mL, 13.9 mmol). The reaction is then allowed to stir overnight at rt. The mixture is concentrated, and the resulting solid is dissolved in MeOH. Purify by passage over Biorad acidic resin by applying the MeOH solution onto the resin and rinsing the resin with MeOH. The resin was then rinsed with 5% triethylamine/MeOH solution to afford 0.52 g (75%) of (1R,2R)-N1-[3,6-dicyclopropyl-5-(2,4-dichlorophenyl)pyrazin-2-yl]-2,3-dihydro-1H-indene-1,2-diamine as a solid: 1H NMR (CDCl3) δ 0.85-1.12, 1.64-1.76, 1.89, 2.68-2.82, 3.31-3.39, 3.66-3.72, 5.16, 5.33, 7.28-7.53; MS (ESI+) for C25H24Cl2N4 m/z 451 (M+H)+.

reactant | N-[(1R,2R)-2-azido-2,3-dihydro-1H-inden-1-yl]-3,6-dicyclopropyl-5-(2,4-dichlorophenyl)pyrazin-2-amine | 1.15 mmol, 0.55 g | N(=[N+]=[N-])[C@H]1[C@@H](C2=CC=CC=C2C1)NC1=NC(=C(N=C1C1CC1)C1=C(C=C(C=C1)Cl)Cl)C1CC1 | C25H22Cl2N6
reactant | PPh3 | 1.51 mmol, 0.396 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | water | 13.9 mmol, 0.25 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (1R,2R)-N1-[3,6-dicyclopropyl-5-(2,4-dichlorophenyl)pyrazin-2-yl]-2,3-dihydro-1H-indene-1,2-diamine | 0.52 g, 75% | C1(CC1)C=1C(=NC(=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1CC1)N[C@H]1[C@@H](CC2=CC=CC=C12)N | C25H24Cl2N4
